US06632810B2
Synthesis of ethyl 3-(5,6,7-trimethoxynaphthalen-2-yl)propenoate:
55% Sodium hydride (241 mg) was suspended in THF (2.5 mL) at −10° C. under an argon atmosphere, a solution of ethyl diethylphosphonoacetate (1.23 g) in THF (5 mL) was added dropwise to the suspension, and the mixture was stirred for 30 minutes. A solution of 5,6,7-trimethoxynaphthalene-2-carboaldehyde (1.23 g) in THF (10 mL) was then added dropwise, and the mixture was stirred for 30 minutes at −10° C. and 1 hour at room temperature. The reaction mixture was diluted with ethyl acetate, washed with 2 M hydrochloric acid, water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to obtain the title compound.

reactant | Sodium hydride | 241 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 1.23 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 5,6,7-trimethoxynaphthalene-2-carboaldehyde | 1.23 g | COC1=C2C=CC(=CC2=CC(=C1OC)OC)C=O | C14H14O4
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(5,6,7-trimethoxynaphthalen-2-yl)propenoate | COC1=C2C=CC(=CC2=CC(=C1OC)OC)C=CC(=O)OCC | C18H20O5
